US04976770
(cis and trans) Methyl-12-Methyl-12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate
A mixture of 2,2'ethylidenebisphenol (10.0 grams, 0.0467 mol), dichloroacetic acid (3.85 ml, 0.0467 mol) and potassium carbonate (25.8 grams, 0.187 mol) in 200 ml of isopropyl alcohol is heated at reflux for 24 hours with vigorous stirring, after which an additional 3.85 ml of dichloroacetic acid is added and the mixture refluxed with stirring for 70 hours. The isopropyl alcohol is removed by distillation at atmospheric pressure and replaced gradually with H2O. The reaction mixture is cooled, acidified by addition of concentrated HC1 and extracted into chloroform. The chloroform extract is washed with brine, treated with charcoal, dried over MgSO4 and concentrated to afford a quantitative yield of crude acid. This material is then converted to the methyl ester by refluxing in a methanol solution (100 ml) in the presence of conc. H2SO4 (0.6 ml) for 2 hours. The solution is cooled, 50 ml of CH2Cl2 is added and the mixture neutralized by the addition of solid Na2CO3. The inorganic salts are removed by filtration and the filtrate concentrated and taken up into CH2Cl2, washed with brine, dried over MgSO4 and concentrated to afford 11.5 grams of a dark semi-solid. Dry column chromatography (elution with 1:4 EtOAc-hexane) yields 5.0 grams (38 percent) of product as a white solid consisting of a 1:1 mixture of cis and trans isomers: mp 95°-120° C.; IR (thin film) 5.62, 6.7, 6.9, 8.2, 9.25, 10.05, 13.05 cm-1 ; 1H NMR (60 MHz, CDCl3) δ 1.66 and 1.89 (2d, 2, CH3), 3.88 and 3.95 (2s, 3, OCH3), 3.95 and 5.1 (2q, 2, CH), 5.0 and 5.36 (2s, 1, CH), 7.0-7.5 (m, 8, Ar--H).

reactant | 2,2'ethylidenebisphenol | 0.0467 mol, 10.0 grams | C(C)(C1=C(C=CC=C1)O)C1=C(C=CC=C1)O | C14H14O2
reactant | dichloroacetic acid | 0.0467 mol, 3.85 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | potassium carbonate | 0.187 mol, 25.8 grams | C([O-])([O-])=O.[K+].[K+]
reactant | dichloroacetic acid | 3.85 ml | ClC(C(=O)O)Cl | C2H2Cl2O2
reactant | H2SO4 | 0.6 ml | OS(=O)(=O)O | H2O4S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | isopropyl alcohol | 200 ml | C(C)(C)O | C3H8O
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
product | Methyl-12-Methyl-12H-Dibenzo[d,g][1,3]dioxocin-6-carboxylate | 11.5 grams | COC(=O)C1OC2=C(C(C3=C(O1)C=CC=C3)C)C=CC=C2 | C17H16O4
